US08975400B2
4-(3-chloro-4-fluorophenoxy)-3-fluorobenzaldehyde
The title compound was prepared by a procedure similar to that described for D4 starting from 3-chloro-4-fluorophenol and 3,4-difluorobenzaldehyde.

reactant | 3-chloro-4-fluorophenol | ClC=1C=C(C=CC1F)O | C6H4ClFO
reactant | 3,4-difluorobenzaldehyde | FC=1C=C(C=O)C=CC1F | C7H4F2O
product | 4-(3-chloro-4-fluorophenoxy)-3-fluorobenzaldehyde | ClC=1C=C(OC2=C(C=C(C=O)C=C2)F)C=CC1F | C13H7ClF2O2
